US05883102
(a) N-(2-Cyanophenyl)-2,2,2-trifluoroacetamide
Trifluoroacetic anhydride (5.9 ml, 0.04 mol) was added to 2-aminobenzonitrile (5 g, 0.04 mol) in dichloromethane (200 ml) and stirred for 16 h. Dichloromethane (200 ml) was added and the solution washed with brine, dried (sodium sulphate) and evaporated to give the product as a white solid (8 g), MS (EI) 214 (M+), 1H NMR (CDCl3) 8.35 (2H, d), 7.71 (1H, s), 7.71 (1H, dd), 7.36 (1H, dd).

reactant | Trifluoroacetic anhydride | 0.04 mol, 5.9 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-aminobenzonitrile | 0.04 mol, 5 g | NC1=C(C#N)C=CC=C1 | C7H6N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2-Cyanophenyl)-2,2,2-trifluoroacetamide | 8 g | C(#N)C1=C(C=CC=C1)NC(C(F)(F)F)=O | C9H5F3N2O
